US05728835
4-Benzoylamino-N-[2-(4-benzoylpiperidino)ethyl]-N-(3-pyridyl)benzamide
Using 4-amino-N-[2-(4-benzoylpiperidino)ethyl]-N-(3-pyridyl)benzamide (210.7 mg, 0.49 mmol), benzoyl chloride (0.07 ml, 0.60 mmol) and pyridine (0.05 ml, 0.62 mmol), the procedure of Inventive Example 165 was repeated to obtain 224.3 mg (85.9%) of the title compound in a colorless powder form.

reactant | 4-amino-N-[2-(4-benzoylpiperidino)ethyl]-N-(3-pyridyl)benzamide | 0.49 mmol, 210.7 mg | NC1=CC=C(C(=O)N(C=2C=NC=CC2)CCN2CCC(CC2)C(C2=CC=CC=C2)=O)C=C1 | C26H28N4O2
reactant | benzoyl chloride | 0.60 mmol, 0.07 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 0.62 mmol, 0.05 ml | N1=CC=CC=C1 | C5H5N
product | 4-Benzoylamino-N-[2-(4-benzoylpiperidino)ethyl]-N-(3-pyridyl)benzamide | 224.3 mg, 85.9% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)N(C=2C=NC=CC2)CCN2CCC(CC2)C(C2=CC=CC=C2)=O)C=C1 | C33H32N4O3
